US04739065
In 10 ml of water containing 0.4 g of sodium hydroxide was dissolved 0.125 g (0.42 mmol) of 4,7-dihydro-7-ethyl-2-hydroxyimino-4-oxo-thieno[2,3-b]pyridine-5-carboxylic acid ethyl ester, anti-isomer. The solution obtained was maintained under stirring at room-temperature for 1 hour and then acidified with concentrated hydrochloric acid. The precipitate obtained was filtered out, washed with water and then with alcohol. After drying, 4,7-dihydro-7-ethyl-2-hydroxyimino-4-oxo-thieno[2,3-b]pyridine-5-carboxylic acid, anti-isomer was obtained in a yield of 98%.

reactant | 4,7-dihydro-7-ethyl-2-hydroxyimino-4-oxo-thieno[2,3-b]pyridine-5-carboxylic acid ethyl ester | 0.42 mmol, 0.125 g | C(C)OC(=O)C=1C(C2=C(N(C1)CC)SC(C2)=NO)=O | C12H14N2O4S
reactant | hydrochloric acid | Cl | ClH
solvent | water | 10 ml, 0.4 g | O | H2O
solvent | sodium hydroxide | [OH-].[Na+]
product | 4,7-dihydro-7-ethyl-2-hydroxyimino-4-oxo-thieno[2,3-b]pyridine-5-carboxylic acid | yield of 98% | C(C)N1C2=C(C(C(=C1)C(=O)O)=O)CC(S2)=NO | C10H10N2O4S
